US04299943
A 2.5 ml portion of the above prepared bistrimethylsilyl-3-cyanopropylphosphonate solution in CCl4 was added dropwise 0.049 g of zirconium tetra propoxide. The reaction mixture was heated to 60° C. and filtered. The filtrate was saved. About 0.058 g of zirconium-3-cyanopropylphosphonate was formed.

reactant | bistrimethylsilyl-3-cyanopropylphosphonate | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)CCCC#N | C10H24NO3PSi2
reactant | zirconium tetra propoxide | 0.049 g | [O-]CCC.[O-]CCC.[O-]CCC.[O-]CCC.[Zr+4]
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | zirconium 3-cyanopropylphosphonate | 0.058 g | [Zr].C(#N)CCCP([O-])([O-])=O | InChI=1S/C4H8NO3P.Zr/c5-3-1-2-4-9(6,7)8;/h1-2,4H2,(H2,6,7,8);/p-2
